US08912208B2
A. (3-Chloro-phenyl)-{5[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]oxazol-2-yl}-amine
The title compound is prepared from [5-(4-bromophenyl)-oxazol-2-yl]-(3-chlorophenyl)-amine using bis(pinacolato)diboron, KOAc, and PdCl2dppf CH2Cl2in DME at 120° C. for 20 min under microwave heating. The reaction mixture is then used directly in the next step: (M+H)+ 397.1.

reactant | [5-(4-bromophenyl)-oxazol-2-yl]-(3-chlorophenyl)-amine | BrC1=CC=C(C=C1)C1=CN=C(O1)NC1=CC(=CC=C1)Cl | C15H10BrClN2O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | CC(=O)[O-].[K+]
product | (3-Chloro-phenyl)-{5[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]oxazol-2-yl}-amine | ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H22BClN2O3
